US07060721B1
To a solution of 4-chloro-1-(2-chloro-4-iodobenzyl)-2-methylimidazole 5-carbaldehyde (1.01 g) in tetrahydrofuran (10 ml) was added methyl (triphenylphosphoranylidene)acetate (1.27 g) and the mixture was refluxed under heating for 4 hr. The solvent was evaporated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to give methyl (E)-3-(4-chloro-1-(2-chloro-4-iodobenzyl)-2-methylimidazol-5-yl)-2-propenate (974 mg) as a white powder.

reactant | 4-chloro-1-(2-chloro-4-iodobenzyl)-2-methylimidazole 5-carbaldehyde | 1.01 g | ClC=1N=C(N(C1C=O)CC1=C(C=C(C=C1)I)Cl)C | C12H9Cl2IN2O
reactant | methyl (triphenylphosphoranylidene)acetate | 1.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl (E)-3-(4-chloro-1-(2-chloro-4-iodobenzyl)-2-methylimidazol-5-yl)-2-propenate | 974 mg | ClC=1N=C(N(C1/C=C/C(=O)OC)CC1=C(C=C(C=C1)I)Cl)C | C15H13Cl2IN2O2
